### PR TITLE
[Merged by Bors] - [Merged by Bors] - feat: description of sheaves for regular sieves

### PR DESCRIPTION
**Pull request by dagurtomas**
We prove that presheaves satisfying an equaliser condition on preregular categories are sheaves for `regular` presieves. 

- [x] depends on: #6876

Co-authored-by: Riccardo Brasca @riccardobrasca [riccardo.brasca@gmail.com](mailto:riccardo.brasca@gmail.com)
Co-authored-by: Filippo A E Nuccio @faenuccio [filippo.nuccio@univ-st-etienne.fr](mailto:filippo.nuccio@univ-st-etienne.fr)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/RegularExtensive.lean [hunk 1]
```diff
@@ -193,4 +200,159 @@ lemma extensive_regular_generate_coherent [Preregular C] [Extensive C] [Precoher
...
+    hom_inv_id := by
+      funext _ ⟨⟨_, ⟨_, h₁⟩⟩ , ⟨_, ⟨_, h₂⟩⟩⟩
+      induction h₁
+      induction h₂
+      rfl
+    inv_hom_id := by aesop }
+
+lemma isSheafFor_regular_of_hasPullbacks {B : C} {S : Presieve B} [S.regular] [S.hasPullbacks]
+    {F : Cᵒᵖ ⥤ Type (max u v)}
+    (hFecs : EqualizerCondition F) : S.IsSheafFor F := by
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Sites/RegularExtensive.lean:280]: I think this can be renamed to enable dot-notation
```suggestion
lemma EqualizerCondition.isSheafFor {B : C} {S : Presieve B} [S.regular] [S.hasPullbacks]
    {F : Cᵒᵖ ⥤ Type (max u v)}
    (hFecs : EqualizerCondition F) : S.IsSheafFor F := by
```
Or is that a bad idea?

What about the converse? Is this an if-and-only-if?

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
